US04560691
A mixture containing 26.5 g of 5benzoyl-6-methyl-2(1H)-pyridinone, 100 ml of dimethylformamide and 21 ml of dimethylformamide dimethyl acetal was heated on a steam bath with stirring for 8 hours and then concentrated on a rotary evaporator to yield a solid residue. The residue was recrystallized from methanol and dried in a vacuum oven at 80°-85° C., to yield 15.8 g of 5-benzoyl-6-[2-(dimethylamino)ethenyl]-2(1H)-pyridinone, m.p. 202°-204° C.

reactant | 5benzoyl-6-methyl-2(1H)-pyridinone | 26.5 g | C(C1=CC=CC=C1)(=O)C=1C=CC(NC1C)=O | C13H11NO2
reactant | dimethylformamide dimethyl acetal | 21 ml | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-benzoyl-6-[2-(dimethylamino)ethenyl]-2(1H)-pyridinone | 15.8 g | C(C1=CC=CC=C1)(=O)C=1C=CC(NC1C=CN(C)C)=O | C16H16N2O2
